US06416733B1
Step D: Preparation of 3-((7-(3-(6-ethyl-4-(4-fluorophenyl)-3-hydroxyphenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propyl 2-aminopropanoate
3-((7-(3-(2-ethyl-4-(4-fluorophenyl)-5-(phenylmethyloxy)phenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propyl 2-((phenylmethoxy)carbonylamino)propanoate (125 mg) is dissolved in methanol/chloroform (2:1, 7 mL) with 50 mg 10% Pd/C catalyst. Hydrogen gas is bubbled in for 3 hours, when the mixture is filtered through Celite® and concentrated to yield 88 mg of product as a white crunchy foam. Mass Spec (EI) m/z=637.5 (M+H)

reactant | 3-((7-(3-(2-ethyl-4-(4-fluorophenyl)-5-(phenylmethyloxy)phenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propyl 2-((phenylmethoxy)carbonylamino)propanoate | 125 mg | C1(=CC=CC=C1)COC(=O)NC(C(=O)OCCCNC(=O)C1OC2=C(C(=CC=C2CC1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)CC)CCC)C | C51H57FN2O9
solvent | methanol chloroform | 7 mL | CO.C(Cl)(Cl)Cl
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 3-((7-(3-(6-ethyl-4-(4-fluorophenyl)-3-hydroxyphenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propyl 2-aminopropanoate | 88 mg | NC(C(=O)OCCCNC(=O)C1OC2=C(C(=CC=C2CC1)OCCCOC1=CC(=C(C=C1CC)C1=CC=C(C=C1)F)O)CCC)C | C36H45FN2O7
